US08754229B2
Methyl 3-amino-6-(4-chlorophenyl)-4-(methylamino)picolinate (Compound 86)
To a solution (E)-methyl 3-chloro-6-(4-chlorophenyl)-4-(((methylsulfonyl)oxy)imino)-1,4,5,6-tetrahydropyridine-2-carboxylate (100 mg, 0.254 mmol) in DMSO (2 mL) was added 2 M methanamine in THF (0.8 mL, 1.6 mmol). The reaction mixture was stirred at ambient temp for 30 min, and then it was diluted with H2O. The product crashed out of solution, and was collect in a Buchner funnel, and dried under vacuum to yielded a brown solid (49 mg, 66%): mp 178-200° C.; 1H NMR (300 MHz, CDCl3) δ 7.88 (d, J=8.4 Hz, 1H), 7.39 (d, J=8.5 Hz, 1H), 6.95 (s, 1H), 5.39 (s, 1H), 4.07 (s, 1H), 3.98 (s, 1H), 2.98 (d, J=5.1 Hz, 1H); ESIMS m/z 292 ([M+H]+), 290 ([M−H]−).

reactant | (E)-methyl 3-chloro-6-(4-chlorophenyl)-4-(((methylsulfonyl)oxy)imino)-1,4,5,6-tetrahydropyridine-2-carboxylate | 0.254 mmol, 100 mg | ClC/1=C(NC(C\C1=N/OS(=O)(=O)C)C1=CC=C(C=C1)Cl)C(=O)OC | C14H14Cl2N2O5S
reactant | methanamine | 2 M | CN | CH5N
reactant | THF | 1.6 mmol, 0.8 mL | C1CCOC1 | C4H8O
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | H2O | O | H2O
product | Methyl 3-amino-6-(4-chlorophenyl)-4-(methylamino)picolinate | 49 mg, 66% | NC=1C(=NC(=CC1NC)C1=CC=C(C=C1)Cl)C(=O)OC | C14H14ClN3O2
